US07101903B2
[1-(4-tert-Butylbenzyl)-5-methoxy-1H-indol-2-yl]methyl acetate
The title compound was prepared from [1-(4-tert-butylbenzyl)-5-methoxy-1H-indol-2-yl]methanol and acetyl chloride in substantially the same manner, as described in step 4 of Example 1. The product was obtained as a white solid. Mass spectrum (ESI, [M+H]+) m/z 366. 1H NMR (400 MHz, DMSO-d6) δ 7.30 (s, 1H), 7.28 (d, 2H, J=8.10 Hz), 7.07 (d, 1H, J=2.45 Hz), 7.86 (d, 2H, J=8.24 Hz), 7.76 (dd, 1H, J=8.86 and 2.29 Hz), 6.54 (s, 1H), 5.36 (s, 2H), 5.18 (s, 2H), 3.74 (s, 3H), 1.77 (s, 3H), and 1.20 ppm (s, 9H).

reactant | [1-(4-tert-butylbenzyl)-5-methoxy-1H-indol-2-yl]methanol | C(C)(C)(C)C1=CC=C(CN2C(=CC3=CC(=CC=C23)OC)CO)C=C1 | C21H25NO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | [1-(4-tert-Butylbenzyl)-5-methoxy-1H-indol-2-yl]methyl acetate | C(C)(=O)OCC=1N(C2=CC=C(C=C2C1)OC)CC1=CC=C(C=C1)C(C)(C)C | C23H27NO3
